US08124629B2
Trifluoromethanesulfonic anhydride (0.35 mL, 2.1 mmol) was added drop-wise to a 0° C. solution of (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid methyl ester (400 mg, 1.61 mmol) and pyridine (0.195 mL, 2.42 mmol) in dichloromethane (12.0 mL). The reaction mixture was stirred at 0° C. for 30 minutes. The reaction mixture was warmed to room temperature, and stirred for 4 hours. The reaction mixture was then cooled to 0° C. Water (150 mL) was added, and the mixture was extracted three times with 50 mL portions of dichloromethane. The combined organic layers were dried over Na2SO4, filtered, and evaporated to yield a yellow oil. A solution of this crude product in dichloromethane was evaporated over silica gel, and the resulting silica gel-supported product was subjected to flash chromatography (RediSep® Flash column, 230-400 mesh, 28% ethyl acetate in hexane) to give 514 mg (84%) of (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester as a white, crystalline solid. 1H NMR (300 MHz, CDCl3) δ ppm 7.82 (dd, J=8.9, 5.6 Hz, 1 H), 7.73 (s, 1 H), 7.64 (d, J=10.0 Hz, 1 H), 7.27-7.35 (m, 1 H), 3.84 (s, 2 H), 3.73 (s, 3 H), 2.49 (s, 3 H). HRMS (ES+) cald. for C15H12F4O5S [(M+Na)+] 403.0234, obsd. 403.0233.

reactant | Trifluoromethanesulfonic anhydride | 2.1 mmol, 0.35 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid methyl ester | 1.61 mmol, 400 mg | COC(CC1=CC2=CC=C(C=C2C(=C1C)O)F)=O | C14H13FO3
reactant | pyridine | 2.42 mmol, 0.195 mL | N1=CC=CC=C1 | C5H5N
reactant | Water | 150 mL | O | H2O
solvent | dichloromethane | 12.0 mL | ClCCl | CH2Cl2
product | (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester | 514 mg, 84% | COC(CC1=CC2=CC=C(C=C2C(=C1C)OS(=O)(=O)C(F)(F)F)F)=O | C15H12F4O5S
